US05244771
To a cooled (-78° C.) suspension of 7.0 g of 2-methyl-3-(4'-methoxycarbonyl-3'-methoxyphenyl)-1-naphthol in 100 mL of methylene chloride was added, dropwise over 10 minutes, 26 mL of 1 M boron trichloride in methylene chloride. The resulting mixture was stirred overnight at 25° C. and then quenched with 25 mL of methanol. The solution was washed with 3×40 mL of 1 N hydrochloric acid and then 2×50 mL of saturated sodium bicarbonate. The organic layer was dried over magnesium sulfate, filtered and concentrated. The residual oil was purified by flash chromatography (2:1 methylene chloride:hexane as eluent) to give 4.8 g of 2-methyl-3-(4'-methoxycarbonyl-3'-hydroxyphenyl)-1-naphthol as a white solid.

reactant | 2-methyl-3-(4'-methoxycarbonyl-3'-methoxyphenyl)-1-naphthol | 7.0 g | CC1=C(C2=CC=CC=C2C=C1C1=CC(=C(C=C1)C(=O)OC)OC)O | C20H18O4
reactant | boron trichloride | 1 M, 26 mL | B(Cl)(Cl)Cl | BCl3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-3-(4'-methoxycarbonyl-3'-hydroxyphenyl)-1-naphthol | 4.8 g | CC1=C(C2=CC=CC=C2C=C1C1=CC(=C(C=C1)C(=O)OC)O)O | C19H16O4
